US09388189B2
(S)-tert-Butyl (4-(benzyloxy)-1-((3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-1-oxobutan-2-yl)carbamate
(S)-Methyl 1-(4-(benzyloxy)-2-((tert-butoxycarbonyl)amino)butanamido)-3-bromo-1H-pyrrole-2-carboxylate (1 g, 1.96 mmol) was treated with aniline (893 μl, 9.8 mmol) and trimethyl aluminium (2 M in toluene, 4.9 mL, 9.8 mmol) according to the method of Preparation 10a. The residue was purified using SP1® Purification System (0% to 30%, hexane-ethyl acetate) a to obtain 0.71 g (63% yield) of the title compound. Purity 100%.

reactant | (S)-Methyl 1-(4-(benzyloxy)-2-((tert-butoxycarbonyl)amino)butanamido)-3-bromo-1H-pyrrole-2-carboxylate | 1.96 mmol, 1 g | C(C1=CC=CC=C1)OCC[C@@H](C(=O)NN1C(=C(C=C1)Br)C(=O)OC)NC(=O)OC(C)(C)C | C22H28BrN3O6
reactant | aniline | 9.8 mmol, 893 μl | NC1=CC=CC=C1 | C6H7N
reactant | trimethyl aluminium | 9.8 mmol, 2 M, 4.9 mL | C[Al](C)C
product | (S)-tert-Butyl (4-(benzyloxy)-1-((3-bromo-2-(phenylcarbamoyl)-1H-pyrrol-1-yl)amino)-1-oxobutan-2-yl)carbamate | 0.71 g, 63% yield | C(C1=CC=CC=C1)OCC[C@@H](C(=O)NN1C(=C(C=C1)Br)C(NC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C27H31BrN4O5
